Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Gingival bleeding
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ male with the past
medical history significant for prior ITP who presents with
bruising and rash, found to have thrombocytopenia of 5,000
plateltets. 

The patient reports that two days ago he developed a diffuse
pettechial rash which he has had in the past with prior ITP
episodes. The rash was gradual in onset, and associated with LUQ
abdominal pain, again typical for prior ITP flares. He denied 
any
bleeding except for gingival bleeding with teeth brushing. He
reports that 5 days ago he had headache and mild myalgias, as
well as nondescript lower abdominal pain but no dysuria, blood 
in
stool, diarrhea. He felt that something was wrong so he went to
his hematologist Dr. ___ his platelets were 37,000 at that
time. 
I reviewed this record, and the hematology team felt that he was
in a flare of his ITP and wanted to monitor clinically. 

Of note, the patient was hospitalized in ___ for ITP, treated
with Dexamethasone for 4 days.

Due to his rash he presented to the ED at ___ on ___.
In the ED, his vitals were stable
Platelets were 5,000
The ED providers spoke with hematology who recommended 40 mg
dexamethasone, which he received. Decision was made to admit to
medicine pending improvement of plts above 10,000.

 
Past Medical History:
ITP 
Hypercholesterolemia
? IBS

 
Social History:
___
Family History:
not relevant to the current admission
 
Physical Exam:
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx with small petechial lesions on the roof, no major
blood blisters.
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: On legs bilaterally, very fine, nonblanching, petechial
rash.
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

By discharge, petechial rash had largely resolved. 

 
Pertinent Results:
___ 08:48PM BLOOD WBC-6.1 RBC-5.12 Hgb-15.1 Hct-44.0 MCV-86 
MCH-29.5 MCHC-34.3 RDW-12.7 RDWSD-39.6 Plt Ct-5*
___ 07:51AM BLOOD WBC-16.3* RBC-5.05 Hgb-14.9 Hct-42.6 
MCV-84 MCH-29.5 MCHC-35.0 RDW-12.5 RDWSD-38.1 Plt Ct-51*
___ 08:48PM BLOOD Glucose-139* UreaN-17 Creat-0.8 Na-139 
K-3.9 Cl-101 HCO3-24 AnGap-14
___ 05:35AM BLOOD Glucose-210* UreaN-16 Creat-0.8 Na-143 
K-4.1 Cl-103 HCO3-23 AnGap-17
___ 05:35AM BLOOD Calcium-9.7 Phos-2.0* Mg-2.1
___ 07:51AM BLOOD Hapto-80
 
Brief Hospital Course:
Mr. ___ is a ___ male with the past medical 
history significant for prior ITP who presents with bruising and 
rash, found to have thrombocytopenia of 5,000 platelets. 

ACUTE/ACTIVE PROBLEMS:
#Immune thrombocytopenic purpura:  Patient seen by hematology 
who recommended 
Dexamethasone 40 mg x4 days which he started in the hospital.  
His petechiae resolved and his platelet count increased.  
Hematology noted that he had a positive Coombs test and some 
spherocytes on smear but his haptoglobin was 80.  They 
recommended sending out flow cytometry, IgG subclasses, all of 
which were pending at time of discharge.  Platelet count had 
increased to 51K by time of discharge.  He will have close f/u 
with hematology on discharge. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  Dexamethasone 40 mg PO DAILY Duration: 3 Doses 
Take this on ___ and ___  
2.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
ITP

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with low counts of your platelet cells (these 
are the cells that help you clot) and you were evaluated by the 
hematology service.  They feel that this is from your ITP, and 
your platelet count improved with steroids.
They recommend that you take dexamethasone (10 tablets of 4 mg) 
tomorrow and on ___.  Please take it once a day, and take it 
after you wake up from sleep.  
I have faxed the prescription to your ___ pharmacy on 
___ in ___.  
 
Followup Instructions:
___